US05245056
To a solution of 117 g of Meldrum's acid and 131 ml of pyridine in 1.5 1 of methylene chloride, 270 ml of stearic acid chloride were added dropwise at a maximum temperature of 15° C. After stirring, the reaction mixture was washed with 4N hydrochloric acid, the aqueous phase was extracted with methylene chloride, the methylene chloride phase was dried and concentrated. The residue was taken up in methanol and stirred under reflux. After cooling, the precipitated crystals were filtered off, dissolved in methylene chloride and chromatographed on silica gel with methylene chloride to give 175 g of methyl-3-oxoeicosanoate, m.p. 52°-54° C.

reactant | Meldrum's acid | 117 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | pyridine | 131 ml | N1=CC=CC=C1 | C5H5N
reactant | stearic acid chloride | 270 ml | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | methyl-3-oxoeicosanoate | 175 g | COC(CC(CCCCCCCCCCCCCCCCC)=O)=O | C21H40O3
